US05283243
9.25 g (=0.07 m) of 2-aminothiophenol, 27.9 g of benzyltrimethylammonium chloride, and 25 g of sodium hydrogen carbonate were introduced into 150 ml of chloroform with stirring. The resulting suspension was cooled to -5° C., and a solution of 25.3 g of 2,6-dibromocaproic acid bromide in 70 ml of chloroform was added slowly with stirring to the cooled suspension. The addition took 30 minutes, and the temperature varied between -5° C. and +5° C. The mixture was maintained in this temperature range for a further hour. The mixture was then heated under reflux for 7 hours. Afterward it was cooled, filtered and the chloroform was distilled off from the filtrate. The remaining residue was treated with water and toluene. The organic phase was separated, dried, and fractionated by column chromatography. The fraction containing 2-(4-bromobutyl)-2H-1,4-benzothiazine-3(4H)-one was separated. After crystallization in the presence of diethyl ether, 5.9 g of 2 -(4-bromobutyl)-2H-1,4-benzothiazine-3(4H)-one were obtained from this fraction as slightly beige-colored crystals having a melting point of 100° C.

reactant | 2-aminothiophenol | 9.25 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | sodium hydrogen carbonate | 25 g | C(O)([O-])=O.[Na+]
reactant | 2,6-dibromocaproic acid bromide | 25.3 g | BrC(C(=O)Br)CCCCBr | C6H9Br3O
catalyst | benzyltrimethylammonium chloride | 27.9 g | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | chloroform | 70 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | 2 -(4-bromobutyl)-2H-1,4-benzothiazine-3(4H)-one | 5.9 g | BrCCCCC1SC2=C(NC1=O)C=CC=C2 | C12H14BrNOS
